US04822822
Production of N-(isopropyl)-N-(4'-t-butylbenzyl)-1-naphthylmethylamine
2.1 g (0.01 mole) of N-(isopropyl)-4-t-butylbenzylamine was dissolved in 50 ml of dry dimethylformamide, and 1.6 g (0.015 mole) of anhydrous sodium carbonate was added. While the mixture was stirred at room temperature, 1.94 g (0.011 mole) of 1-(chloromethyl)-naphthalene was added. The mixture was reacted at 30° to 40° C. for 6 hours. Ice water was added to the reaction mixture, and the mixture was extracted with toluene. The organic layer was washed with water and then toluene was evaporated. The residue was chromatographed on a silica gel column and eluted with 5% ethyl acetate/n-hexane. The eluate was concentrated to give 3.17 g (yield 92%) of an oily substance.

reactant | N-(isopropyl)-4-t-butylbenzylamine | 0.01 mole, 2.1 g | C(C)(C)NCC1=CC=C(C=C1)C(C)(C)C | C14H23N
reactant | sodium carbonate | 0.015 mole, 1.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(chloromethyl)-naphthalene | 0.011 mole, 1.94 g | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(isopropyl)-N-(4'-t-butylbenzyl)-1-naphthylmethylamine | yield 92% | C(C)(C)N(CC1=CC=C(C=C1)C(C)(C)C)CC1=CC=CC2=CC=CC=C12 | C25H31N
